US06610727B2
2,3,9,10-Tetrafluoro-12-(3, 6-anhydro-4-deoxy-β-D-glucopyranosyl)-6,7,12, 13-tetrahydro(5H)indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione:
A mixture of 2,3,9,10-tetrafluoro-12-(2—O-benzyl-3, 6-anhydro-4-deoxy-β-D-glucopyranosyl)-6, 7, 12, 13-tetrahydro(5H)indolo[2, 3-a]pyrrolo[3, 4-c]carbazole-5, 7-dione (0.034 g, 0.055 mmol) and 20% Pd(OH)2/C (0.048 g) in 5 mL of freshly distilled THF was hydrogenated (balloon pressure) at room temperature for 5 days. The resulting mixture was filtered through a bed of Celite and the cake was washed with THF and then with methanol. The filtrate was evaporated and the residue was chromatographed (Sephadex LH-20/ methanol) to give the title compound (0.017 g, 59%) as a yellow solid: 1H NMR (THF-d8, 400 MHz) δ 11.15 (br s, 1H), 10.17 (br s, 1H), 9.19 (dd, J=11.1, 8.5 Hz, 1H), 9.09 (dd, J=11.2, 8.3 Hz, 1H), 7.81 (dd, J=11.6, 6.7 Hz, 1H), 7.51 (dd, 10.5, 6.7 Hz, 1H), 6.21 (d, J=7.3 Hz, 1H), 5.37 (br s, 1H), 4.89 (s, 1H), 4.57 (m, 2H), 4.27 (d, J=9.7 Hz, 1H), 3.85 (d, J=9.1 Hz, 1H), 3.09 (d, J=13.4 Hz, 1H), 2.09 (dd, J=13.1, 6.0 Hz, 1H); MS (ESI−) m/e 524 (M−H)−; HPLC: 99.0% (270 nm).

reactant | 2,3,9,10-tetrafluoro-12-(2—O-benzyl-3, 6-anhydro-4-deoxy-β-D-glucopyranosyl)-6, 7, 12, 13-tetrahydro(5H)indolo[2, 3-a]pyrrolo[3, 4-c]carbazole-5, 7-dione | 0.055 mmol, 0.034 g | FC=1C(=CC2=C(C1)NC1=C2C2=C(C=3C4=CC(=C(C=C4N(C13)[C@H]1[C@H](OCC3=CC=CC=C3)[C@@H]3C[C@H](O1)CO3)F)F)C(NC2=O)=O)F | C33H21F4N3O5
catalyst | Pd(OH)2/C | 0.048 g | [OH-].[OH-].[Pd+2]
solvent | THF | C1CCOC1 | C4H8O
product | 2,3,9,10-Tetrafluoro-12-(3, 6-anhydro-4-deoxy-β-D-glucopyranosyl)-6,7,12, 13-tetrahydro(5H)indolo[2,3-a]pyrrolo[3,4-c]carbazole-5,7-dione | 0.017 g, 59% | FC=1C(=CC2=C(C1)NC1=C2C2=C(C=3C4=CC(=C(C=C4N(C13)[C@H]1[C@H](O)[C@@H]3C[C@H](O1)CO3)F)F)C(NC2=O)=O)F | C26H15F4N3O5
